US07459448B2
9-Chloro-2-(3-chloro-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-13)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 1-(3-chlorophenyl)guanidine were converted to I-13 (26%): HRMS Calcd. for C18H12Cl2N4O: 371.0466, Found 371.0489.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 1-(3-chlorophenyl)guanidine | ClC=1C=C(C=CC1)NC(=N)N | C7H8ClN3
product | 9-Chloro-2-(3-chloro-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=CC=C3)Cl)=O)C1 | C18H12Cl2N4O
